US04243609
A mixture of 10.0 g of 2,3,4,5,6-pentafluorobenzoic acid and 400 ml of nitromethane is saturated with anhydrous ammonia at room temperature and then placed in a bomb and heated at 100° for 20 hrs. The resulting solution is evaporated and the residue crystallized from chloroform-hexane to yield 4-amino-2,3,5,6-tetrafluorobenzoic acid as a white solid.

reactant | 2,3,4,5,6-pentafluorobenzoic acid | 10.0 g | FC1=C(C(=O)O)C(=C(C(=C1F)F)F)F | C7HF5O2
reactant | ammonia | N | H3N
solvent | nitromethane | 400 ml | [N+](=O)([O-])C | CH3NO2
product | 4-amino-2,3,5,6-tetrafluorobenzoic acid | NC1=C(C(=C(C(=O)O)C(=C1F)F)F)F | C7H3F4NO2
